US05866611
Sodium hydride (106 mg) was added to a solution of 2-allyl-4-butoxyphenol (500 mg) in toluene (40 ml). The reaction mixture was heated to reflux. A solution of 3-dimethylaminopropyl chloride (437 mg) in toluene (20 ml) was added to the refluxing reaction mixture and heating continued for a further 8 hours. The reaction mixture was cooled to ambient temperature, evaporated and the residue dissolved in water (10 ml). The resulting solution was extracted with ethyl acetate (4×15 ml). The ethyl acetate extracts were combined, dried (MgSO4) and evaporated to give an oil which was further purified by flash column chromatography on silica gel (Merck Art No 9385) using a 50:50:0.1 mixture of ethyl acetate, hexane and triethylamine as eluent to give N,N-dimethyl-3-(2-allyl-4-butoxyphenoxy)propylamine as yellow oil (556 mg); microanalysis, found: C, 74.5; H, 10.2; N, 4.8% C18H29NO2 requires: C, 74.2; H, 10.0; N, 4.8%; NMR([CD3 ]2SO): 0.91(3H,t), 1.42(2H,m), 1.65(2H,m), 1.82(2H,m), 2.15(6H,s), 2.38(2H,t), 3.27(2H,d), 3.88(4H,m), 5.2(2H,m), 5.92(1H,m), 6.7(2H,m) and 6.82(1H,m); m/z 292(M+H).

reactant | Sodium hydride | 106 mg | [H-].[Na+]
reactant | 2-allyl-4-butoxyphenol | 500 mg | C(C=C)C1=C(C=CC(=C1)OCCCC)O | C13H18O2
reactant | 3-dimethylaminopropyl chloride | 437 mg | CN(CCCCl)C | C5H12ClN
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-dimethyl-3-(2-allyl-4-butoxyphenoxy)propylamine | 556 mg | CN(C)CCCOC1=C(C=C(C=C1)OCCCC)CC=C | C18H29NO2
